* C:\Users\alaso\OneDrive\Desktop\classification-challenge\classification-challenge\Main project\challenge#3\RLC.asc
R1 N002 N001 5
L1 N002 N003 1m
C1 0 N003 1µ
V1 N001 0 PULSE(0 5 0 1n 1n 5m 10m)
.tran 5m
.backanno
.end
